US08633207B2
To 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetic acid (172 mg, 0.9 mmol) and 2-amino-3-(trifluoromethyl)benzoic acid (185 mg, 0.9 mmol) in pyridine (3 mL) was added triphenyl phosphite (0.26 mL, 1 mmol) and the mixture was heated in a microwave synthesizer at 150° C. for 10 min. The mixture was cooled to rt and then ethyl 3-aminopropanoate hydrochloride (156 mg, 1 mmol) was added and the mixture was heated in a microwave synthesizer at 180° C. for 3 min. The crude mixture was concentrated under reduced pressure. THF (6 mL) was added followed by sodium ethoxide (21% in EtOH, 1.2 mL) and the mixture was stirred at 50° C. for 1 h. An additional amount of sodium ethoxide (21% in EtOH, 1 mL) was added and the mixture was stirred at 70° C. for 45 min. The cooled mixture was then was partitioned between EtOAc and 4 N HCl and the organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residue was dissolved in hexanes and Et2O and concentrated under reduced pressure. The residue was then triturated with hexanes and collected by filtration to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(trifluoromethyl)quinazolin-4-ol (140 mg, 43%) as a brown solid. LC-MS (ESI) m/z 360 (M+H)+.

reactant | 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetic acid | 0.9 mmol, 172 mg | FC(C(=O)O)(C1=NC=C(C=C1)F)F | C7H4F3NO2
reactant | 2-amino-3-(trifluoromethyl)benzoic acid | 0.9 mmol, 185 mg | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
reactant | triphenyl phosphite | 1 mmol, 0.26 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | ethyl 3-aminopropanoate hydrochloride | 1 mmol, 156 mg | Cl.NCCC(=O)OCC
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(trifluoromethyl)quinazolin-4-ol | 140 mg, 43% | FC(C1=NC2=C(C=CC=C2C(=N1)O)C(F)(F)F)(C1=NC=C(C=C1)F)F | C15H7F6N3O
